US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluoroaniline (900 mg, 2.196 mmol) and 2,6-difluorobenzenesulfonyl chloride (0.357 mL, 2.64 mmol) the title compound of Step A was obtained as a light yellow solid (857 mg, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.89 (s, 1H), 8.40 (d, J=5.5 Hz, 1H), 7.64-7.72 (m, 1H), 7.49-7.56 (m, 1H), 7.21-7.32 (m, 3H), 6.55 (d, J=5.3 Hz, 1H), 3.70-3.74 (m, 4H), 3.52-3.55 (m, 4H). MS (ESI): 585 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluoroaniline | 2.196 mmol, 900 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1F)F | C17H14ClF2N5OS
reactant | 2,6-difluorobenzenesulfonyl chloride | 2.64 mmol, 0.357 mL | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H16ClF4N5O3S2
